US07582625B2
1.19a) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(1′-methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 1i from 150 mg (0.31 mmol) (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 62 mg (0.34 mmol) 1-methyl-[4,4′]bipiperidinyl.

reactant | (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.31 mmol, 150 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O)C=CC=C2 | C26H31N3O6
reactant | 1-methyl-[4,4′]bipiperidinyl | 0.34 mmol, 62 mg | CN1CCC(CC1)C1CCNCC1 | C11H22N2
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(1′-methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)C)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C37H51N5O5
